US04246429
A mixture of 12.1 parts of 2-methoxy-α-[(2-methylphenyl)amino]-1-naphthaleneacetonitrile, 4.1 parts of N,N-diethylethanamine and 20 parts of dry pyridine is stirred and cooled to 0° C. (cooling in a 2-propanone/CO2 -bath). During 2 hours, gaseous hydrogen sulfide is introduced. The whole is stored overnight at 0° C. The reaction mixture is poured onto 600 parts of water. The precipitated product is filtered off and dissolved in 450 parts of trichloromethane. The solution is washed with 100 parts of water, dried, filtered and evaporated. The residue is crystallized from 120 parts of acetonitrile. The product is filtered off (the filtrate is set aside) and dried, yielding a first fraction of 6.9 parts of 2-methoxy-α-[(2-methylphenyl)amino]-1-naphthalenecarbothioamide.

reactant | 2-methoxy-α-[(2-methylphenyl)amino]-1-naphthaleneacetonitrile | COC1=C(C2=CC=CC=C2C=C1)C(C#N)NC1=C(C=CC=C1)C | C20H18N2O
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | 2-propanone CO2 | CC(C)=O.C(=O)=O
reactant | hydrogen sulfide | S | H2S
solvent | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-methoxy-α-[(2-methylphenyl)amino]-1-naphthalenecarbothioamide | COC1C(C2=CC=CC=C2C=C1)(C(N)=S)NC1=C(C=CC=C1)C | C19H20N2OS
